US06784319B2
Synthesis of a Mixture of Tramadol and its Corresponding Trans Isomer in a Ratio of About 94:6
To 120 mL of anhydrous tetrahydrofuran (THF) cooled to −50° C. was added 400 mL of sec-butyl lithium (0.52 mol, 1.3 M solution in cyclohexane). The resulting yellow suspension was stirred for 10 min and then 63.56 g of neat 3-bromoanisole (0.34 mol) was added dropwise with stirring. The yellow suspension turned red, and then a white precipitate formed. The resulting white suspension was stirred for 30 min. In a separate vessel 52.75 g of (±) 2-((dimethylamino)methyl) cyclohexanone was dissolved in 107 mL of anhydrous THF at 0° C. To the resulting solution of (±) 2-((dimethylamino)methyl) cyclohexanone was added, dropwise with stirring, a solution of 1.03 g of iron (mH) chloride (6.3 mmol, 1 mol percent) in anhydrous THF. The resulting violet solution was transferred dropwise to the stirred white suspension at −50° C. using a metering pump. The resulting reaction mixture was quenched with 100 mL of water, the organic phase separated, the aqueous phase was extracted twice with 100 mL diethyl ether, and the diethyl ether extracts combined. The combined diethyl ether extracts were dried over sodium sulfate, filtered, and the diethyl ether solvent was removed under reduced pressure to provide 89.82 g (0.303 mol, 89% yield) of the above-titled mixture in a ratio of 93.9:6.1 as determined using HPLC.

reactant | sec-butyl lithium | 0.52 mol, 1.3 M, 400 mL | C(C)(CC)[Li]
reactant | 3-bromoanisole | 0.34 mol, 63.56 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | (±) 2-((dimethylamino)methyl) cyclohexanone | 52.75 g | CN(C)CC1C(CCCC1)=O | C9H17NO
solvent | THF | 107 mL | O1CCCC1 | C4H8O
catalyst | iron | 1.03 g | [Fe] | Fe
catalyst | chloride | 6.3 mmol | [Cl-]
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | Tramadol | 0.303 mol, 89.82 g, 89% yield | CN(C)CC1CCCCC1(C2=CC=CC(=C2)OC)O | C16H25NO2
